US07399778B2
2-Methyl-1-[1-(4-methylbenzyl)-1H-1,2,4-triazol-5-yl]propan-1-ol was synthesized in a manner similar to that of procedure 21 B but using 1-(4-methylbenzyl)-1H-1,2,4-triazole and isobutyraldehyde as the starting materials. The product was isolated as a white solid in 66% yield.

reactant | 1-(4-methylbenzyl)-1H-1,2,4-triazole | CC1=CC=C(CN2N=CN=C2)C=C1 | C10H11N3
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-Methyl-1-[1-(4-methylbenzyl)-1H-1,2,4-triazol-5-yl]propan-1-ol | 66% yield | CC(C(O)C1=NC=NN1CC1=CC=C(C=C1)C)C | C14H19N3O
